US09359381B2
Step 6: 4-((tert-Butyldimethylsilyl)oxy)-3-((5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)methyl)butanoic acid
A solution of tert-butyldimethylsilyl trifluoromethanesulfonate (3.37 mL, 14.7 mmol) in DCM (5 mL) was added dropwise to a suspension of sodium 4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)-3-(hydroxymethyl)butanoate (1.51 g, 3.7 mmol) and 2,6-lutidine (2.57 mL, 22.0 mmol) in DCM (20 mL) at 0° C. The mixture was stirred at room temperature for 3 hours. Further portions of 2,6-lutidine (641 μL, 5.5 mmol) and tert-butyldimethylsilyl trifluoromethanesulfonate (843 μL, 3.7 mmol) were added and the mixture stirred for a further 2 hours. The reaction was diluted with DCM (50 mL), washed with water (2×25 mL) and 1M HCl(aq) (1×25 mL), the organic phase was dried over magnesium sulfate and evaporated under vacuum. The residue was suspended in methanol (25 mL) and pyridine hydrochloride (424 mg, 3.7 mmol) and water (2.5 mL) were added. The mixture was stirred at room temperature for 2 hours then concentrated under vacuum. The residue was dissolved in DCM (50 mL) and washed with 1M HCl (aq) (2×25 mL) and brine (1×25 mL). The organic phase was dried over magnesium sulfate and evaporated under vacuum. Trituration with diethyl ether afforded the title compound.

reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 14.7 mmol, 3.37 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | sodium 4-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)-3-(hydroxymethyl)butanoate | 3.7 mmol, 1.51 g | FC=1C=C(C=CC1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)CC(CC(=O)[O-])CO.[Na+]
reactant | 2,6-lutidine | 22.0 mmol, 2.57 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 2,6-lutidine | 5.5 mmol, 641 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 3.7 mmol, 843 μL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | pyridine hydrochloride | 3.7 mmol, 424 mg | Cl.N1=CC=CC=C1
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2.5 mL | O | H2O
product | 4-((tert-Butyldimethylsilyl)oxy)-3-((5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)methyl)butanoic acid | [Si](C)(C)(C(C)(C)C)OCC(CC(=O)O)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C | C25H34FN3O5Si
